US05561145
4-(p-nitrophenoxy)piperidine:
3-p-methoxyphenyl-5(S)-[(4-p-nitrophenoxypiperidino)methyl]-2-oxazolidinone (hydrochloride), m.p. 250°-253°; [α]D =-32.7° (DMSO).

reactant | 3-p-methoxyphenyl-5(S)-[(4-p-nitrophenoxypiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H25N3O6
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(p-nitrophenoxy)piperidine | [N+](=O)([O-])C1=CC=C(OC2CCNCC2)C=C1 | C11H14N2O3
